US08022222B2
Step C: Preparation of ethyl 3-(2-(3-benzoylthioureido)-5-bromopyridin-4-yloxy)-4-chlorobenzoate:
A flask was charged with ethyl 3-(2-amino-5-bromopyridin-4-yloxy)-4-chlorobenzoate (2.76 g, 7.43 mmol), benzoyl isothiocyanate (1.05 ml, 7.80 mmol) and THF (100 mL). The reaction mixture was stirred at ambient temperature overnight and then concentrated. The residue was purified by silica gel column chromatography using 20% ether in hexanes to give the desired product (1.35 g, 34% yield) as light yellow solid.

reactant | ethyl 3-(2-amino-5-bromopyridin-4-yloxy)-4-chlorobenzoate | 7.43 mmol, 2.76 g | NC1=NC=C(C(=C1)OC=1C=C(C(=O)OCC)C=CC1Cl)Br | C14H12BrClN2O3
reactant | benzoyl isothiocyanate | 7.80 mmol, 1.05 ml | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | ethyl 3-(2-(3-benzoylthioureido)-5-bromopyridin-4-yloxy)-4-chlorobenzoate | 1.35 g, 34% yield | C(C1=CC=CC=C1)(=O)NC(NC1=NC=C(C(=C1)OC=1C=C(C(=O)OCC)C=CC1Cl)Br)=S | C22H17BrClN3O4S
